2112-08-24 10:53:00 Physician Attending Progress Note
Chief Complaint:
   HPI: I saw and examined the patient, and was physically present with
   the  for key portions of the services provided.  I agree with his / her
   note above, including assessment and plan: 82 yo M with DM, AFib, HTN,
   throat CA s/p resection 20 years ago, who had a massive GI bleed this
   spring with subtotal colectomy complicated by pneumonia and respiratory
   failure, peritonitis, who was most recently discharged to rehab on
   [**2112-8-8**] after hospitalization for AMS with pleural effusion; now w/ 5
   days twitching and 2 days visual hallucinations. Initially went to the
   floor, but was altered and ABG 7.27/75/126 and tx to MICU for further
   management. Initially started on BIPAP but had poor mental status and
   was intubated.
   24 Hour Events: Desated overnight and CO2 up to 49.  Trial of CPAP
   responded with decreased Co2.
 BRONCHOSCOPY - At [**2112-8-23**] 01:45 PM
   BAL sent.
 INVASIVE VENTILATION - STOP [**2112-8-23**] 02:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2112-8-22**] 03:23 PM
   Vancomycin - [**2112-8-23**] 08:48 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-8-24**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-8-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-8-24**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 86 (81 - 104) bpm
   BP: 156/54(90) {84/42(56) - 177/65(103)} mmHg
   RR: 15 (14 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,154 mL
                                                                    441 mL
   PO:
             TF:
                                                                     29 mL
                                                                    105 mL
   IVF:
                                                                  1,065 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                    525 mL
   Urine:
                                                                  1,245 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -591 mL
                                                                    -84 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 409 (409 - 409) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.37/43/99.[**Numeric Identifier 128**]/25/0
   Ve: 11.1 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Gen: NAD intubated and responds to question appropriately, HEENT:
   Dilated right pupil, intubated  Heart:RRR s1s2 no m/r/g  Lungs:
   decreased breath sounds left.  Abdomen: +BS  soft, NT, ND G tube site
   mild erythema.  ext: No c/c/e.  Neuro: Normal tone, no clonus.
   Labs / Radiology: Chest large left pleural effusion
   8.5 g/dL
   287 K/uL
   80 mg/dL
   1.4 mg/dL
   25 mEq/L
   3.9 mEq/L
   28 mg/dL
   108 mEq/L
   141 mEq/L
   25.9 %
   7.0 K/uL
        [image002.jpg]
                             [**2112-8-22**]  05:12 AM
                             [**2112-8-22**]  03:55 PM
                             [**2112-8-23**]  04:03 AM
                             [**2112-8-23**]  04:30 AM
                             [**2112-8-23**]  08:34 AM
                             [**2112-8-23**]  11:01 AM
                             [**2112-8-23**]  10:00 PM
                             [**2112-8-24**]  01:20 AM
                             [**2112-8-24**]  03:48 AM
                             [**2112-8-24**]  03:56 AM
   WBC
   7.2
   7.4
   7.0
   Hct
   24.7
   26.1
   25.9
   Plt
   [**Telephone/Fax (3) 4789**]
   Cr
   1.4
   1.4
   1.4
   TCO2
   30
   26
   25
   26
   26
   27
   26
   Glucose
   88
   85
   80
   Other labs: PT / PTT / INR:13.0/31.6/1.1, CK / CKMB / Troponin-T:30//,
   ALT / AST:14/19, Alk Phos / T Bili:52/0.2, Amylase / Lipase:41/52,
   Differential-Neuts:57.1 %, Lymph:34.2 %, Mono:4.2 %, Eos:4.3 %,
   Albumin:3.1 g/dL, LDH:225 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
    82 yo M with DM, AFib, HTN, throat CA s/p resection 20 years ago, who
   had a massive GI bleed this spring with subtotal colectomy complicated
   by pneumonia and respiratory failure, peritonitis, who was most
   recently discharged to rehab on [**2112-8-8**] after hospitalization for AMS
   with pleural effusion.  Presented with mycolonus, increased tone and
   visual hallucinations with subsequent hypercarbic respiratory failure.
   1)Hypercarbic respiratory failure-Unclear etiology.  Able to wean to
   PSV, check SBT today with follow up gas. - will check formal PFTs with
   MIP/MEEP and VC supine and sitting up -Will need Sleep study to see if
   there is a component of central apnea post CVA
   2)Myoclonus-Will consider sending  paraneoplastic panel if CSF with
   oligoclonal bands or IgG is positive-F/U  EEG-Question visual
   hallucinations related to levaquin-Obtain OSH records
    3)Pleural effusion-Exudative based on past taps-Will repeat tap, send
   studies and cytology -Obtain OSH records from previous taps to follow
   up if cytology has been negative, no cyto on last tap here
   4)Gtube placement-F/U IR recs but this was a very complicated g tube-
   would involve DR [**Last Name (STitle) 1924**] in any decision before pulling it/treating
   through it.  For now will continue abx course
   -Continue antibiotics vanc/Zosyn 7 day course
   5)Wound care-Wound care consult for abdominal wound looks CDI with
   granulation tissue
   6)HTN-Continue hydroclorathiazide.
   7)Hypercalcemia-Noted at OSH will obtain records per family he received
   pamidronate for hypercalcemia.-Will check 25 vit D, [**1-22**] Vit D, PTH and
   PTrP
   8)FEN: Will restart tube feeds today.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2112-8-23**] 09:04 PM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-8-22**] 01:14 AM
   Arterial Line - [**2112-8-22**] 02:30 AM Will d
   22 Gauge - [**2112-8-22**] 11:00 AM
   Prophylaxis:
   DVT: SQ heprin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition :
   Total time spent:

2112-08-25 11:09:00 Physician Attending Progress Note
Chief Complaint:
   HPI: I saw and examined the patient, and was physically present with
   the  for key portions of the services provided.  I agree with his / her
   note above, including assessment and plan: 82 yo M with DM, AFib, HTN,
   throat CA s/p resection 20 years ago, who had a massive GI bleed this
   spring with subtotal colectomy complicated by pneumonia and respiratory
   failure, peritonitis, who was most recently discharged to rehab on
   [**2112-8-8**] after hospitalization for AMS with pleural effusion; now w/ 5
   days twitching and 2 days visual hallucinations. Initially went to the
   floor, but was altered and ABG 7.27/75/126 and tx to MICU for further
   management. Initially started on BIPAP but had poor mental status and
   was intubated.  Currently doing well s/p thoracentesis.
   24 Hour Events: s/p throcentesis with exudative effusion.  Small apical
   pneumothorax.  Restarted HCTZ.  Limited sleep study for tonight
   pending.
 THORACENTESIS - At [**2112-8-24**] 10:45 AM
 NON-INVASIVE VENTILATION - START [**2112-8-24**] 12:59 PM
   placed on autoset cpap since he was napping
 NON-INVASIVE VENTILATION - STOP [**2112-8-24**] 01:40 PM
   placed on autoset cpap since he was napping
 ARTERIAL LINE - STOP [**2112-8-24**] 03:22 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2112-8-22**] 03:23 PM
   Vancomycin - [**2112-8-24**] 09:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-8-25**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Hep 5k tid
   Colace
   Lansoprazole
   Metoprolol
   RISS
   Zosyn
   HCTZ
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-8-25**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 89 (78 - 102) bpm
   BP: 132/62(78) {116/54(69) - 175/83(102)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,032 mL
                                                                    555 mL
   PO:
             TF:
                                                                    232 mL
                                                                    108 mL
   IVF:
                                                                    740 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                  2,505 mL
                                                                    500 mL
   Urine:
                                                                  1,405 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
                                                                  1,100 mL
   Balance:
                                                                 -1,473 mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///26/
   Physical Examination Gen: NAD intubated and responds to question
   appropriately, HEENT: Dilated right pupil, intubated  Heart:RRR s1s2 no
   m/r/g  Lungs: decreased breath sounds left.  Abdomen: +BS  soft, NT, ND
   G tube site mild erythema.  ext: No c/c/e.  Neuro: Normal tone, no
   clonus.
   Labs / Radiology
   9.2 g/dL
   307 K/uL
   95 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.9 mEq/L
   24 mg/dL
   109 mEq/L
   143 mEq/L
   28.7 %
   6.9 K/uL
        [image002.jpg]
                             [**2112-8-22**]  03:55 PM
                             [**2112-8-23**]  04:03 AM
                             [**2112-8-23**]  04:30 AM
                             [**2112-8-23**]  08:34 AM
                             [**2112-8-23**]  11:01 AM
                             [**2112-8-23**]  10:00 PM
                             [**2112-8-24**]  01:20 AM
                             [**2112-8-24**]  03:48 AM
                             [**2112-8-24**]  03:56 AM
                             [**2112-8-25**]  05:11 AM
   WBC
   7.2
   7.4
   7.0
   6.9
   Hct
   24.7
   26.1
   25.9
   28.7
   Plt
   [**Telephone/Fax (3) 4816**]07
   Cr
   1.4
   1.4
   1.4
   1.4
   TCO2
   26
   25
   26
   26
   27
   26
   Glucose
   88
   85
   80
   95
   Other labs: PT / PTT / INR:13.0/31.6/1.1, CK / CKMB / Troponin-T:30//,
   ALT / AST:14/19, Alk Phos / T Bili:52/0.2, Amylase / Lipase:41/52,
   Differential-Neuts:57.1 %, Lymph:34.2 %, Mono:4.2 %, Eos:4.3 %,
   Albumin:2.7 g/dL, LDH:194 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan82 yo M with DM, AFib, HTN, throat CA s/p resection
   20 years ago, who had a massive GI bleed this spring with subtotal
   colectomy complicated by pneumonia and respiratory failure,
   peritonitis, who was most recently discharged to rehab on [**2112-8-8**] after
   hospitalization for AMS with pleural effusion.  Presented with
   mycolonus, increased tone and visual hallucinations with subsequent
   hypercarbic respiratory failure.
   1)Hypercarbic respiratory failure-Extubated successfully but was
   hypercarbic overnight - ? OSA versus central versus hypoventilation.
   For OSA central
 CPAP- watch for apnea
 change to BIPAP. Sleep study
   while in house. For possible neuromuscular weakness. will check formal
   PFTs with MIP/MEEP and VC supine and sitting up
   2)Myoclonus- sending  paraneoplastic panel if CSF with oligoclonal
   bands or IgG is positive-F/U  EEG-Question visual hallucinations
   related to levaquin-Obtain OSH records
   3)Pleural effusion-Exudative based on past taps-IP repeated tap at
   bedside this AM
 exudate cyto pending.
   4)Gtube placement-F/U IR recs but this was a very complicated g tube DR
   [**Last Name (STitle) 1924**] saw pt and would NOT take out tube, Rx with ABX -Continue
   antibiotics vanc/Zosyn [**4-4**] day course.
   5)Wound care-Wound care consult for abdominal wound looks CDI with
   granulation tissue
   6)HTN-Continue hydroclorathiazide and metoprolol.
   7)Hypercalcemia-Noted at OSH will obtain records per family he received
   pamidronate for hypercalcemia.-Will check 25 vit D, [**1-22**] Vit D, PTH and
   PTrP
   ICU Care
   Nutrition: Will have speech and swallow evaluation.
   ProBalance (Full) - [**2112-8-24**] 09:51 PM 10.[**Telephone/Fax (5) 4809**] mL/hour
   Glycemic Control:  stable
   Lines:
   22 Gauge - [**2112-8-22**] 11:00 AM
   Prophylaxis:
   DVT: sq heprin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Floor with signout to pulmonary fellow on floor.
   Total time spent: